Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
RLQ abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman s/p liver transplant ___ (f/u Childrens in 
___, situs inversus, vasc. issues including IVC atresia 
and azygous v. stent sent from OSH ED with gradual onset RLQ 
pain and b/l ___ pain and swelling x1 day. Also has associated 
nausea, no fever.
.
In the emergency department, initial vitals were T97.7 HR78 
BP120/81 RR18 95% on RA.
Labs and imaging significant for WBC 12.5, AP 196 (chronically 
elevated). Patient given tylenol 1gm for HA, 2gm tacrolimus, 
levothyroxine 150mcg, 125mg of lamotrigine, and 20mg of 
famotidine. No pain meds needed if not moving. Abdominal CT 
showed enlarged R ovary with multiple cysts with fluid levels. 
B/l ___ dopplers were negative for DVT. Abdominal labs are within 
normal limits, with a chronically elevated AP of 196. RUQ 
ultrasound with dopplers showed no hepatic venous thrombosis. 
Transabdominal pelvic ultrasound showed a large right-sided 
hemorrhagic cyst, with no evidence of torsion. OB did not think 
indication for intervention, but requested admit to medicine for 
serial abd exams and pain control due to multiple medical 
issues. They will follow patient if medicine team requests. Pt 
seen by transplant surgery, but they reported no active issues.
.
Vitals on transfer T 98.6 BP 113/76 P 80 RR 18 O2 98%RA
.
.
On arrival to the medical floor, patient was stable. She reports 
minimal abdominal pain, worse with movement. No nausea at 
present. 
.
Review of systems is otherwise negative. No fevers, chills, 
vomiting, diarrhea.

 
Past Medical History:
1.  Biliary atresia s/p 2 liver transplants in ___ 
transplant was a split liver in ___ which was rejected; ___ 
transplant was a whole liver in ___
2.  Situs inversus (except her heart)
3.  Duodenal atresia
4.  s/p splenectomy
5.  Annular pancreas
6.  Hx of a coma and frontal brain damage in the setting of a 
grand mal seizure which occured while hyponatremic in ___
7.  Hx of an azygous stent placed on ___ 
8.  Hypothyroidism

 
Social History:
___
Family History:
History of diabetes, heart disease, throat cancer, stomach 
cancer, and uterine cancer in her family.
 
Physical Exam:
VITAL SIGNS:
T=98.1 BP=114/78 HR=75 RR=16 O2= 100% RA
.
.
PHYSICAL EXAM
GENERAL: well appearing young female, in NAD
HEENT: dry mucous membranes. OP clear.  Neck Supple, No LAD
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___.  
LUNGS: CTAB, good air movement biaterally.
ABDOMEN: +BS, soft, obese, multiple well-healed scars, tender in 
mid-RLQ, no rebound tenderness/guarding, no masses
EXTREMITIES: +1 edema in b/l ___, +distal pulses.

 
Pertinent Results:
ADMISSION LABS:
WBC-12.5* RBC-4.14* Hgb-12.2 Hct-37.3 MCV-90 MCH-29.5 MCHC-32.8 
RDW-13.8 Plt ___
Neuts-65.8 ___ Monos-7.7 Eos-1.5 Baso-0.8
___ PTT-24.1 ___
Glucose-88 UreaN-10 Creat-1.0 Na-139 K-5.4* Cl-105 HCO3-26 
AnGap-13 (Hemolyzed)
Repeat K-4.4
ALT-27 AST-39 AlkPhos-196* TotBili-0.7
Albumin-3.9
Glucose-91 Lactate-0.9 Na-138 K-5.7* Cl-104 calHCO3-25

UA:
Color-Straw Appear-Clear Sp ___
Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

UCx:
mixed bacterial flora, consistent with skin and/or genital 
contamination

STUDIES:  
.
- Abdominal CT: enlarged R ovary with multiple cysts with fluid 
levels. 
- B/l ___ dopplers: negative for DVT. 
- RUQ ultrasound with dopplers: no hepatic venous thrombosis. 
- Transabdominal pelvic ultrasound: large right-sided 
hemorrhagic cyst, with no evidence of torsion

DISCHARGE LABS:
WBC-11.1* RBC-4.20 Hgb-12.6 Hct-37.6 MCV-90 MCH-30.0 MCHC-33.6 
RDW-14.3 Plt ___
Glucose-82 UreaN-7 Creat-0.8 Na-140 K-4.4 Cl-105 HCO3-23 
AnGap-16
Calcium-9.9 Phos-3.7 Mg-1.7
tacroFK-5.___SSESSMENT AND PLAN:
.
___ s/p liver transplant in ___ (f/u Childrens in ___, 
situs inversus, vasc. issues including IVC atresia and azygous 
v. stent with RLQ pain and lower extremity swelling x 1day. Pt 
found to have R hemorrhagic ovarian cyst. 
.
#. ABDOMINAL PAIN: The pt's abdominal pain was likely due to 
right-sided hemorrhagic ovarian cyst seen on pelvic U/S. Serial 
abdominal exams were unremarkable for peritoneal signs. Pt 
continued to have some abdominal pain, which was controlled on 
Morphine 15mg q4h prn.
.
#. ___ EDEMA: Pt had no evidence of DVT on lower extremity 
Doppler. The edema was likely due to venous insufficiency. The 
swelling improved over the course of her stay with elevation of 
her legs.
.
#. BILIARY ATRESIA: Pt is s/p liver transplant in ___. She was 
evaluated by transplant team, who noted no active issues. A 
Tacrolimus level was drawn and found to be normal at 5.1.
.
#. SEIZURES: Stable. Continued home medications.
.
#. HYPOTHYROIDISM: Stable. Continued home medications.
.
EMERGENCY CONTACT: ___ ___

 
Medications on Admission:
1. Lamotrigine 225mg PO BID
2. Levothyroxine 75mcg PO daily
3. Bactrim SS 1 tab PO daily
4. Tacrolimus 2mg PO BID
5. Famotidine 20mg PO daily
6. Prednisone 2.5mg PO every other day
7. ___ Aspirin 81mg PO daily
8. Lithium ER 900mg PO qhs
9. Benztropine 2mg PO qhs
10. Abilify 30mg PO qhs
 
Discharge Medications:
1. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Lamotrigine 25 mg Tablet Sig: Five (5) Tablet PO BID (2 times 
a day): Total of 225mg BID.  
3. Bactrim 80-400 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Tacrolimus 1 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
6. Prednisone 2.5 mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Benztropine 1 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
9. Aripiprazole 15 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. Lithium Carbonate 450 mg Tablet Sustained Release Sig: Two 
(2) Tablet Sustained Release PO QHS (once a day (at bedtime)).  
11. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.
Disp:*28 Tablet(s)* Refills:*0*
12. Morphine 15 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.
Disp:*15 Tablet(s)* Refills:*0*
13. Ibuprofen 400 mg Tablet Sig: ___ Tablets PO Q8H (every 8 
hours) as needed for pain.
Disp:*90 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
right-sided Hemorrhagic (bloody) ovarian cyst

Secondary Diagnoses
Biliary atresia status post liver transplant
Duodenal atresia
Seizures
Hypothyroidism

 
Discharge Condition:
Stable, improved.

 
Discharge Instructions:
You were admitted to another hospital for evaluation of your 
abdominal pain and had multiple imaging studies including a CT 
scan, ultrasound, and also evaluation by the ob/gyn team which 
confirmed that your pain is likely due to a right ovary 
hemmorrhagic cyst which was stable overnight and requires no 
intervention at this time. Your blood count was stable and you 
were monitored overnight with multiple exams of the abdomen.

Please continue all your home medications with the following 
additions and changes:
- you were prescribed compazine as needed for nausea
- you were prescribed morphine as needed for pain
- continue to take your tacrolimus, as your level was in the 
normal range. Please report that your Tacrolimus trough was 5.1 
to your doctors in ___.

Please call your physician or return to the ED if you experience 
any excessive menstrual bleeding, blood in stool, 
lightheadedness, increased abdominal pain, fevers, chills.

It was a pleasure to meet you. Good luck with your studies - 
you'll make a great ___ teacher!

 
Followup Instructions:
___